US08202885B2
rac-3,3,3-Trifluoro-propionic acid (1R*,2R*,4R*)-2-(2-{[3-(4-methoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl ester
Prepared according to procedure P1.4 in Example 1A using rac-(1R*,2R*,4R*)-2-(2-{[3-(4-methoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-ol and 3,3,3-trifluoropropionyl chloride.

reactant | rac-(1R*,2R*,4R*)-2-(2-{[3-(4-methoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-ol | COC1=CC=CC=2NC(=NC21)CCCN(CCC2(C1C=C(C(C2)CC1)C1=CC=CC=C1)O)C | C28H35N3O2
reactant | 3,3,3-trifluoropropionyl chloride | FC(CC(=O)Cl)(F)F | C3H2ClF3O
product | rac-3,3,3-Trifluoro-propionic acid (1R*,2R*,4R*)-2-(2-{[3-(4-methoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl ester | COC1=CC=CC=2NC(=NC21)CCCN(CC[C@]2([C@H]1C=C([C@@H](C2)CC1)C1=CC=CC=C1)OC(CC(F)(F)F)=O)C | C31H36F3N3O3
